US07781452B2
6-Methoxy-3-nitro-2-pyridineamine
A solution of 2-chloro-6-methoxy-3-nitropyridine (25.3 g, 0.134 mol) and a concentrated aqueous ammonia solution (70 ml) in N,N-dimethylformamide (200 ml) was stirred at 70° C. for 4 hours and 15 minutes. The reaction mixture was cooled to room temperature and then diluted with water. The resulted precipitate was collected by filtration to yield the title compound (16.8 g, 99.2 mmol, 74.0%) as a yellow solid.

reactant | 2-chloro-6-methoxy-3-nitropyridine | 0.134 mol, 25.3 g | ClC1=NC(=CC=C1[N+](=O)[O-])OC | C6H5ClN2O3
reactant | ammonia | 70 ml | N | H3N
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 6-Methoxy-3-nitro-2-pyridineamine | 99.2 mmol, 16.8 g, 74.0% | COC1=CC=C(C(=N1)N)[N+](=O)[O-] | C6H7N3O3
